US04711895
108 mg of 3-chloro-4-t-butyldimethylsilyloxy-2-cyclopentenone was dissolved in 4 ml of ether, and the solution was cooled to -78° C. Then, 0.79 ml of a 0.72 M tetrahydrofuran solution of octyl magnesium bromide was added. The mixture was stirred for 10 minutes, and water was added. The mixture was extracted with ether, and the extract was dried over anhydrous magnesium sulfate, filtered, and concentrated. The resulting oily product was dissolved in 6 ml of tetrahydrofuran, and 1.1 ml of a 1 M tetrahydrofuran solution of tetrabutyl ammonium fluoride was added. The mixture was stirred for 2 days. A saturated aqueous solution of sodium chloride was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, filtered, and concentrated. The concentrate was chromatographed on a silica gel column to give 92 mg (yield 83%) of 2-chloro-4-octylcyclopent-2-ene-1,4-diol.

reactant | 3-chloro-4-t-butyldimethylsilyloxy-2-cyclopentenone | 108 mg | ClC1=CC(CC1O[Si](C)(C)C(C)(C)C)=O | C11H19ClO2Si
reactant | tetrahydrofuran | 0.72 M | O1CCCC1 | C4H8O
reactant | octyl magnesium bromide | C(CCCCCCC)[Mg]Br
reactant | water | O | H2O
solvent | ether | 4 ml | CCOCC | C4H10O
product | 2-chloro-4-octylcyclopent-2-ene-1,4-diol | 92 mg, yield 83% | ClC=1C(CC(C1)(O)CCCCCCCC)O | C13H23ClO2
